US06875884B1
To a mixture of N-[3-[2-(4-chlorophenyl)ethylamino]propyl]phthalimide (2.28 g, 6.65 mmol) and potassium carbonate (1.8 g, 13 mmol) in CH3CN (50 ml) was added ethyl iodide (1.6 ml, 20 mmol). The mixture was stirred at 70° C. for 16 h, and then filtered. The filtrate was concentrated under vacuum to dryness, and the residue was chromatographed on silica gel (eluting with 2% methanol/chloroform) to afford N-[3-[[2-(4-chlorophenyl)ethyl](ethyl)amino]propyl]phthalimide (1.41 g, 57%): MS(ES+) m/e 371 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 7.84 (m, 2H), 7.71 (m, 2H), 7.23 (d, J=8.5 Hz, 2H), 7.11 (d, J=8.5 Hz, 2H), 3.71 (t, J=7.3 Hz, 2H), 2.66 (m, 4H), 2.57 (m, 4H), 1.83 (m, 2H), 1.00 (t, J=7.1 Hz, 3H).

reactant | N-[3-[2-(4-chlorophenyl)ethylamino]propyl]phthalimide | 6.65 mmol, 2.28 g | ClC1=CC=C(C=C1)CCNCCCN1C(C=2C(C1=O)=CC=CC2)=O | C19H19ClN2O2
reactant | potassium carbonate | 13 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 20 mmol, 1.6 ml | C(C)I | C2H5I
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | N-[3-[[2-(4-chlorophenyl)ethyl](ethyl)amino]propyl]phthalimide | 1.41 g, 57% | ClC1=CC=C(C=C1)CCN(CCCN1C(C=2C(C1=O)=CC=CC2)=O)CC | C21H23ClN2O2
